US07524852B2
Synthesis of 1-[6-tert-butoxycarbonyl-4-(2-chloro-4-fluorobenzylamino)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl]piperidine-4-carboxylic acid
Ethyl 1-[6-tert-butoxycarbonyl-4-(2-chloro-4-fluorobenzylamino)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl]piperidine-4-carboxylate (9.16 g, 16.1 mmol) prepared according to Process Step 3 was dissolved in ethanol (300 mL), and the solution was mixed with an aqueous sodium hydroxide solution (1 mol/L, 32 mL), followed by stirring at 65° C. for sixteen hours. After checking the completion of the reaction by thin layer chromatography, the reaction mixture was mixed with water and washed with diethyl ether. The aqueous layer was neutralized with diluted hydrochloric acid (1 mol/L, 35 mL), the precipitated crystals were collected by filtration and thereby yielded 1-[6-tert-butoxycarbonyl-4-(2-chloro-4-fluorobenzylamino)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl]piperidine-4-carboxylic acid (3.94 g). The filtrate was extracted with dichloromethane, the organic layer was washed with brine, was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was mixed with diethyl ether for crystallization. The precipitated crystals were collected by filtration and thereby yielded crystals of the target compound (1.07 g, 5.01 g in total with the above-mentioned crystals, in a yield of 62%).

reactant | Ethyl 1-[6-tert-butoxycarbonyl-4-(2-chloro-4-fluorobenzylamino)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl]piperidine-4-carboxylate | 16.1 mmol, 9.16 g | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2NCC2=C(C=C(C=C2)F)Cl)N2CCC(CC2)C(=O)OCC)CC1 | C27H35ClFN5O4
reactant | sodium hydroxide | 1 mol/L, 32 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 1-[6-tert-butoxycarbonyl-4-(2-chloro-4-fluorobenzylamino)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl]piperidine-4-carboxylic acid | yield of 62% | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2NCC2=C(C=C(C=C2)F)Cl)N2CCC(CC2)C(=O)O)CC1 | C25H31ClFN5O4
